2185-03-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2185-3-4**] 03:58 AM
   MRSA screen
 PICC LINE - START [**2185-3-4**] 04:00 AM
 MULTI LUMEN - START [**2185-3-4**] 04:04 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 71 (71 - 97) bpm
   BP: 130/72(85) {97/55(66) - 139/79(92)} mmHg
   RR: 11 (10 - 14) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (3 - 4)mmHg
   Total In:
                                                                  6,658 mL
   PO:
   TF:
   IVF:
                                                                  1,135 mL
   Blood products:
                                                                    223 mL
   Total out:
                                                                      0 mL
                                                                    365 mL
   Urine:
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,293 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   Distressed elderly gentleman
   VERY tender [**Year (2 digits) 4137**], obese with ventral hernia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   292 K/uL
   6.0 g/dL
   118 mg/dL
   1.4 mg/dL
   16 mEq/L
   4.2 mEq/L
   35 mg/dL
   110 mEq/L
   139 mEq/L
   20.4 %
   18.9 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
   WBC
   18.9
   Hct
   20.4
   Plt
   292
   Cr
   1.4
   Glucose
   121
   118
   Other labs: Differential-Neuts:93.0 %, Lymph:5.5 %, Mono:1.4 %, Eos:0.0
   %, Lactic Acid:2.9 mmol/L
   [**Year (4 digits) 4137**] U/S:
   Multiple liver masses again most likely metastatic adenocarcinoma,
   though no
   pathologic dx in OMR. CBD dilation appears increased measuring 14 mm.
   Ascites. Gallbladder dilated, and sludge seen; no secondary e/o
   cholecystitis
   but correlate w/ symptoms and fasting state
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**].
   - discuss goals of care with family
   - Vanco/Zosyn, D1=[**3-3**]
   - f/u blood, urine cultures
   - ERCP consult for ?stent placement or removal if stent is occluded
   awaiting goals of care discussion, per ERCP, we would need to reverse
   code status to do procedure
   - IVF boluses
   - monitor UOP
   - remove PICC line given sepsis
   - wean levophed as tolerated
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  HCT today,[**3-4**], is 20.4
   - transfuse to Hct of 25
   - guaiac stools
   - active T & S, crossmatch 2 units
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr noted to be 1.7 on
   admission and trending down with IVF suggesting pre-renal ARF.  Now
   resolved, back to baseline of 1.4.
   - trend creatinine
   - renally dose all meds
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-3-4**] 04:00 AM
   Multi Lumen - [**2185-3-4**] 04:04 AM
   18 Gauge - [**2185-3-4**] 04:05 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-03-05 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - acutely agitation, hypertensive, clamp down (cyanosis perioral and in
   toes), tachy to 120s-> started on nitro gtt and BPs reduced but then
   hypotensive, in the course of this EKG without signs cardiac ischemia.
   Nitro gtt d/c'd. Family consulted and decided only IVF, abx, O2 but no
   other interventions.
   - Hep SC d/c'd but fam wants pneumoboots (ordered)
   - ERCP recs: family refused.
   - PM hct (had 1 unit in AM) - not consistent w/ goals of care.
   - place A-line - not consistent with goals of care.
   - Family meeting - CMO.
   - Culture - pnd
   - PICC rm'd and cultured tip - pnd
   - radiology - rec hida scan = not doing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-4**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2185-3-4**] 02:31 PM
   Morphine Sulfate - [**2185-3-5**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-5**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.6
   HR: 122 (70 - 143) bpm
   BP: 54/39(42) {54/35(40) - 231/183(223)} mmHg
   RR: 18 (12 - 37) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 85.2 kg
    CVP: 9 (5 - 9)mmHg
   Total In:
                                                                  9,290 mL
                                                                    174 mL
   PO:
   TF:
   IVF:
                                                                  3,290 mL
                                                                    174 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,472 mL
                                                                     65 mL
   Urine:
                                                                  1,172 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,818 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   11.2 g/dL
   103 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.8 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   36.2 %
   22.3 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
   WBC
   18.9
   22.3
   Hct
   20.4
   36.2
   Plt
   292
   387
   Cr
   1.4
   1.3
   Glucose
   121
   118
   103
   Other labs: PT / PTT / INR:14.9/24.1/1.3, Differential-Neuts:92.6 %,
   Band:0.0 %, Lymph:4.4 %, Mono:2.7 %, Eos:0.0 %, Lactic Acid:2.9 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**]. On [**3-4**], family meeting held with aim to
   transition to CMO
   - Vanco/Zosyn D3, D1=[**3-3**]
   - IVF boluses
   - monitor UOP
   - wean levophed as tolerated
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  HCT today,[**3-4**], is 20.4
   - hold transfusions
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr noted to be 1.7 on
   admission and trending down with IVF suggesting pre-renal ARF.  Now
   resolved, back to baseline of 1.4.
   - trend creatinine
   - renally dose all meds
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   18 Gauge - [**2185-3-4**] 04:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-03-05 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yr old with previous cancers and liver mets, unknown primary,
   ampullary mass, septic shock presumably d/t cholangitis.
   Last night made DNR/DNI, and focus on comfort measures.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-5**] 04:00 AM
   Vancomycin - [**2185-3-5**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2185-3-4**] 02:31 PM
   Morphine Sulfate - [**2185-3-5**] 05:20 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-5**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 114 (99 - 143) bpm
   BP: 62/44(48) {54/35(40) - 231/183(223)} mmHg
   RR: 21 (18 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 85.2 kg
             Total In:
                                                                  9,290 mL
                                                                    416 mL
   PO:
             TF:
   IVF:
                                                                  3,290 mL
                                                                    416 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,472 mL
                                                                     65 mL
   Urine:
                                                                  1,172 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,818 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   387 K/uL
   103 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.8 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   36.2 %
   22.3 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
   WBC
   18.9
   22.3
   Hct
   20.4
   36.2
   Plt
   292
   387
   Cr
   1.4
   1.3
   Glucose
   121
   118
   103
   Other labs: PT / PTT / INR:14.9/24.1/1.3, Differential-Neuts:92.6 %,
   Band:0.0 %, Lymph:4.4 %, Mono:2.7 %, Eos:0.0 %, Lactic Acid:2.9 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Family will need to be updated.  Prognosis is dismal especially given
   lack of pressor support. Will consider transfer to floor.
   ICU Care
   Nutrition:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   18 Gauge - [**2185-3-4**] 04:05 AM
   Prophylaxis:
   Comments: Comfort measures including Abx, O2 and IVF but otherwise no
   escalation, DNR/DNI
   Communication: ICU consent signed
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-03-06 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - tried to send to floor but hospitalist wanted clear goals of care
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-5**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-3-6**] 06:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 67 (67 - 114) bpm
   BP: 100/53(64) {61/39(44) - 100/56(64)} mmHg
   RR: 24 (18 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 85.2 kg
             Total In:
                                                                  1,740 mL
                                                                    173 mL
   PO:
             TF:
   IVF:
                                                                  1,740 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    245 mL
   Urine:
                                                                    120 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,620 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   11.2 g/dL
   103 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.8 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   36.2 %
   22.3 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
   WBC
   18.9
   22.3
   Hct
   20.4
   36.2
   Plt
   292
   387
   Cr
   1.4
   1.3
   Glucose
   121
   118
   103
   Other labs: PT / PTT / INR:14.9/24.1/1.3, Differential-Neuts:92.6 %,
   Band:0.0 %, Lymph:4.4 %, Mono:2.7 %, Eos:0.0 %, Lactic Acid:2.9 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**]. On [**3-4**], family meeting held with aim to
   transition to CMO
   - Vanco/Zosyn D4, D1=[**3-3**]
   - IVF boluses
   - monitor UOP
   - wean levophed as tolerated
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  HCT today,[**3-4**], is 20.4
   - hold transfusions
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr noted to be 1.7 on
   admission and trending down with IVF suggesting pre-renal ARF.  Now
   resolved, back to baseline of 1.4.
   - trend creatinine
   - renally dose all meds
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   18 Gauge - [**2185-3-4**] 04:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-03-06 11:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 year old man known to [**Hospital Unit Name 44**]; hx of colon ca, Bladder ca, liver mets
   (adeno of unknown origin). Slipped from chair at nursing home, by
   family
s report because he wanted to cool down on the floor. Brought to
   ED. Hypotensive. Elevated LFTs. Got 5 liters of fluid in ED; still
   requiring levophed with low SVR. Creat elevated to 1.7. On vanco,
   zosyn. CXR with probable RLL infiltrate. Not for ERCP
   24 Hour Events:
   Was called out to floor but hospitalist declined due to unclear goals
   of care.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-6**] 02:00 AM
   Vancomycin - [**2185-3-6**] 08:11 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-3-6**] 06:24 AM
   Pantoprazole (Protonix) - [**2185-3-6**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-6**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.5
   HR: 121 (67 - 121) bpm
   BP: 95/49(59) {71/40(48) - 100/56(64)} mmHg
   RR: 32 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 85.2 kg
             Total In:
                                                                  1,740 mL
                                                                    424 mL
   PO:
             TF:
   IVF:
                                                                  1,740 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    350 mL
   Urine:
                                                                    120 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,620 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Alert, unilingual Russian
   PERRL.
   Lungs
 clear ant/lat
   S1S2 tachy
   Abd soft, tender RUQ, no rebound
   Labs / Radiology
   11.2 g/dL
   387 K/uL
   103 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.8 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   36.2 %
   22.3 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
   WBC
   18.9
   22.3
   Hct
   20.4
   36.2
   Plt
   292
   387
   Cr
   1.4
   1.3
   Glucose
   121
   118
   103
   Other labs: PT / PTT / INR:14.9/24.1/1.3, Differential-Neuts:92.6 %,
   Band:0.0 %, Lymph:4.4 %, Mono:2.7 %, Eos:0.0 %, Lactic Acid:2.9 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   80 year old man known to [**Hospital Unit Name 44**]; hx of colon ca, Bladder ca, liver mets
   (adeno of unknown origin). Slumped at nursing home. Brought to ED.
   Hypotensive. Elevated LFTs. Got 5 liters of fluid in ED; still
   requiring levophed with low SVR. Creat elevated to 1.7. On vanco,
   zosyn. CXR with probable RLL infiltrate. Patient had deteriorated over
   the course of admission and ERCP was not considered an option after
   discussion with family. Goals of care seemed to have changed overnight.
   He currently is hypotensive with acute renal failure, leukocytosis, new
   cholestatic picture, right sided abdominal pain.  Agree with IV
   hydration +/- pressor support if needed. He has a CVL. Family meeting
   today as below.
   Family Meeting
   I met with [**Last Name (LF) 1677**], [**First Name3 (LF) **], [**Doctor First Name 12046**] (children) and [**Name (NI) 149**] (son-in-law)
   today for a 35 minute meeting. Dr [**First Name (STitle) 5142**] was present as well. We updated
   the family on the issues and spent most of the meeting discussed goals
   of care.  The family expressed a consensus understanding that Mr
   [**Known lastname 11784**] would want to be living as long as his mental status remained
   in this state. By their report, he is oriented to person and place, but
   not to date. He is capable of laughing and expressing himself although
   not fully.  Understanding the overall poor prognosis due to his
   metastatic disease and recurrent cholangitis, the family would like for
   him to have maximal non-aggressive care. This is a change from the
   goals of care discussion which took place 2 days ago. He remains
   DNR/DNI but is not CMO.  Family appeared pleased with the discussion
   and understands that once hemodynamics improve, he will likely be
   transferred to the floor. All questions answered.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   18 Gauge - [**2185-3-4**] 04:05 AM
   Prophylaxis:
   DVT: boots + SCH
   Comments:
   Communication: ICU consent signed
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2185-03-07 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting:  Family repeatedly expressed that they would like
   maximal [**Hospital **] medical care.  They want IVFs, Abx, pressors if
   needed, labs.  The would not want CPR, ERCP, or other invasive
   procedures.
   - Labs: worsening renal function, worsening LFTs
   - sacral decub noted; wound care consulted
   - 4.5 L IVF boluses for low BP and low UOP, but persistent low blood
   pressure, so levophed started at 0.10
   - patient very agitated at night.  gave haldol and zyprexa repeatedly
   with mild effect, gave IV ativan x 1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-6**] 08:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-7**] 01:38 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-6**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2185-3-6**] 02:43 PM
   Morphine Sulfate - [**2185-3-6**] 08:25 PM
   Haloperidol (Haldol) - [**2185-3-7**] 05:01 AM
   Lorazepam (Ativan) - [**2185-3-7**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-7**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 106 (72 - 121) bpm
   BP: 95/54(64) {64/38(46) - 114/101(105)} mmHg
   RR: 21 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 85.2 kg
             Total In:
                                                                  6,054 mL
                                                                  1,528 mL
   PO:
             TF:
   IVF:
                                                                  6,054 mL
                                                                  1,528 mL
   Blood products:
   Total out:
                                                                    443 mL
                                                                    150 mL
   Urine:
                                                                    443 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,611 mL
                                                                  1,378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   185 K/uL
   10.3 g/dL
   171 mg/dL
   2.4 mg/dL
   16 mEq/L
   4.2 mEq/L
   51 mg/dL
   106 mEq/L
   138 mEq/L
   33.3 %
   15.8 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
                             [**2185-3-6**]  12:43 PM
                             [**2185-3-6**]  07:55 PM
                             [**2185-3-7**]  05:49 AM
   WBC
   18.9
   22.3
   17.9
   17.6
   15.8
   Hct
   20.4
   36.2
   32.0
   30.6
   33.3
   Plt
   292
   387
   188
   172
   185
   Cr
   1.4
   1.3
   2.6
   2.3
   2.4
   Glucose
   121
   118
   103
   68
   75
   171
   Other labs: PT / PTT / INR:24.8/34.5/2.4, ALT / AST:97/160, Alk Phos /
   T Bili:557/6.5, Differential-Neuts:93.3 %, Band:0.0 %, Lymph:4.0 %,
   Mono:2.4 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:1.6 g/dL,
   LDH:531 IU/L, Ca++:6.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**]. [**3-6**] family meeting decided to pursue medical
   management with abx, IVF, transfusion, and pressors as needed.
   - Vanco/Zosyn D5, D1=[**3-3**]
   - IVF boluses
   - monitor UOP
   - wean levophed as tolerated
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  Last Hct 33.3.
   - trend Hct
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr elevated to 2.3 -2.6 in
   last 24 hours, likely represents ATN [**1-4**] hypotension.  Poor UOP
   currently despite fluid challenge.
   - trend creatinine
   - renally dose all meds
   .
   # elevated INR
 2.4 from baseline of 1.3.  Unclear etiology; shock
   liver unlikely as LDH stable.  Could represent deterioration of liver
   synthetic function from malignancy, or could represent spurious lab
   value.  DIC unlikely as Hct, Plt stable.
   - check fibrinogen
   - recheck INR
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   - recheck EKG to establish QTc before further administration of Haldol
   for agitation
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   18 Gauge - [**2185-3-4**] 04:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-03-08 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting: continue current care goals. They want IVFs, Abx,
   pressors if needed, labs.  The would not want CPR, ERCP, or other
   invasive procedures.
   - vanco lvl am ordered.
   - on/off AVNRT, need goals of care discussion (consider CMO)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-6**] 08:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-8**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-3-8**] 12:26 AM
   Morphine Sulfate - [**2185-3-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-8**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 102 (85 - 168) bpm
   BP: 91/59(67) {68/32(50) - 105/64(72)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95.7 kg (admission): 85.2 kg
             Total In:
                                                                  2,733 mL
                                                                    268 mL
   PO:
             TF:
   IVF:
                                                                  2,733 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                    411 mL
                                                                    120 mL
   Urine:
                                                                    411 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,322 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   GEN: NAD, sedated
   CV: tachycardic, reg rhythm
   RESP: CTA on anterior exam
   ABD: tense, no rebound/guarding
   EXT: mottling of feet bilaterally, edematous
   Labs / Radiology
   166 K/uL
   9.8 g/dL
   99 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.5 mEq/L
   58 mg/dL
   107 mEq/L
   140 mEq/L
   31.4 %
   18.2 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
                             [**2185-3-6**]  12:43 PM
                             [**2185-3-6**]  07:55 PM
                             [**2185-3-7**]  05:49 AM
                             [**2185-3-8**]  03:31 AM
   WBC
   18.9
   22.3
   17.9
   17.6
   15.8
   18.2
   Hct
   20.4
   36.2
   32.0
   30.6
   33.3
   31.4
   Plt
   292
   387
   188
   172
   185
   166
   Cr
   1.4
   1.3
   2.6
   2.3
   2.4
   2.8
   Glucose
   121
   118
   103
   68
   75
   171
   99
   Other labs: PT / PTT / INR:28.9/36.3/2.9, ALT / AST:80/142, Alk Phos /
   T Bili:700/6.5, Differential-Neuts:93.3 %, Band:0.0 %, Lymph:4.0 %,
   Mono:2.4 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:1.5 g/dL,
   LDH:397 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**]. [**3-6**] family meeting decided to pursue medical
   management with abx, IVF, transfusion, and pressors as needed.
   - Vanco/Zosyn D6, D1=[**3-3**] (vanc held today for supratherapeutic level)
   - monitor UOP
   - per goals of care discussion and discussion on rounds, continue but
   do not escalate pressors
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  Last Hct 31.4.
   - trend Hct
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr elevated to 2.3 -2.8 in
   last 48 hours, likely represents ATN [**1-4**] hypotension.  Poor UOP
   currently despite fluid challenge.
   - trend creatinine
   - renally dose all meds
   .
   # elevated INR
 2.4 from baseline of 1.3.  Unclear etiology; shock
   liver unlikely as LDH stable.  Could represent deterioration of liver
   synthetic function from malignancy, or could represent spurious lab
   value.  DIC unlikely as Hct, Plt stable.
   - check fibrinogen
   - recheck INR
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   Prophylaxis:
   DVT: HSQ, pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Critical Care Addendum
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  80M with metastatic adenoca of unknown
   primary w/ ampullary mass p/w septic shock likely from cholangitis.
   Prolonged family mtg yesterday, decision to continue with current level
   of care, no further escalation.  Continues to decline overnight, more
   hypotensive, unresponsive to IVF bolus. Having runs of AVNRT,
   increasing with pressure uptitration.
   AF  120  100/60
60/40  20-30  98% 4L NC
   appears uncomfortable, groaning, but minimally responsive, tachypneic,
   jaundiced
   coarse shallow BS
   RR, tachy
   Distended, tense abd, decreased BS
   grossly edematous, cool extremities
   Labs: reviewed cr 2.8 (up), wbc 18, INR 2.9, serum bicarb 17
   A/P: Pt continues to decline with progressive MODS.  He is more
   hypotensive despite uptitration of pressor [**Doctor Last Name **] and is not responding
   to IVF boluses. His rising cr, poor MS, and cool extremities suggest
   worsening forward flow/perfusion. His resp status appears more labored.
   Pt is DNR/DNI and we continue current level of care with no further
   escalation.We continue antbx, supplemental o2, and current
   vasopressor.  Will use pain medication for pt comfort, though this may
   impact his hypotension further. Would not further uptitrate his
   vasopressor given arrhythmias and cool, mottled extremities. We
   continue to update family and address goals of care given grim
   prognosis and declining status. Will consult with palliative care team.
   Remainder as per resident note.
   Critically ill
   Time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2185-3-8**] 02:20 PM ------

2185-03-09 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started ativan for anxiety
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-6**] 08:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-9**] 02:10 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2185-3-8**] 12:30 PM
   Morphine Sulfate - [**2185-3-8**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-3-8**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-9**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 34.8
C (94.6
   HR: 88 (80 - 129) bpm
   BP: 96/54(62) {66/40(46) - 98/57(68)} mmHg
   RR: 12 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.7 kg (admission): 85.2 kg
             Total In:
                                                                    969 mL
                                                                    311 mL
   PO:
             TF:
   IVF:
                                                                    969 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                     45 mL
   Urine:
                                                                    280 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99% 4L NC
   ABG: ///16/
   Physical Examination
   GEN: NAD, sedated
   CV: tachycardic, reg rhythm
   RESP: CTA on anterior exam
   ABD: tense, no rebound/guarding
   EXT: mottling of feet bilaterally, edematous
   Labs / Radiology
   140 K/uL
   9.8 g/dL
   86 mg/dL
   3.3 mg/dL
   16 mEq/L
   4.8 mEq/L
   65 mg/dL
   108 mEq/L
   139 mEq/L
   32.0 %
   25.6 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
                             [**2185-3-6**]  12:43 PM
                             [**2185-3-6**]  07:55 PM
                             [**2185-3-7**]  05:49 AM
                             [**2185-3-8**]  03:31 AM
                             [**2185-3-9**]  03:45 AM
   WBC
   18.9
   22.3
   17.9
   17.6
   15.8
   18.2
   25.6
   Hct
   20.4
   36.2
   32.0
   30.6
   33.3
   31.4
   32.0
   Plt
   292
   387
   188
   172
   185
   166
   140
   Cr
   1.4
   1.3
   2.6
   2.3
   2.4
   2.8
   3.3
   Glucose
   121
   118
   103
   68
   75
   171
   99
   86
   Other labs: PT / PTT / INR:29.6/36.3/2.9, ALT / AST:80/142, Alk Phos /
   T Bili:700/6.5, Differential-Neuts:93.3 %, Band:0.0 %, Lymph:4.0 %,
   Mono:2.4 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:1.5 g/dL,
   LDH:397 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**]. [**3-6**] family meeting decided to pursue medical
   management with abx, IVF, transfusion, and pressors as needed.
   - Vanc/Zosyn D7, D1=[**3-3**] (Vanc level still therapeutic despite being
   d/ced)
   - monitor UOP
   - per goals of care discussion and discussion on rounds, continue but
   do not escalate pressors
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  Last Hct 32.0.
   - trend Hct
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr elevated to 2.3 -3.3 in
   last 72 hours, likely represents ATN [**1-4**] hypotension.  Poor UOP
   currently despite fluid challenge; now oliguric.
   - trend creatinine
   - renally dose all meds
   .
   # elevated INR
 2.9 from baseline of 1.3.  Unclear etiology.  Could
   represent deterioration of liver synthetic function from malignancy or
   hypotension.  DIC unlikely as Hct, Plt stable.
   - check fibrinogen
   - recheck INR
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   Prophylaxis:
   DVT: HSQ, pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2185-03-10 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - episodes of AVNRT
   - took off blood pressure cuff as family felt that it was hurting
   patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-3-10**] 04:00 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-3-9**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2185-3-9**] 08:18 AM
   Morphine Sulfate - [**2185-3-9**] 05:05 PM
   Lorazepam (Ativan) - [**2185-3-9**] 11:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 99 (81 - 182) bpm
   BP: 80/48(56) {63/31(43) - 121/62(74)} mmHg
   RR: 25 (12 - 27) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.7 kg (admission): 85.2 kg
             Total In:
                                                                  1,279 mL
                                                                    313 mL
   PO:
             TF:
   IVF:
                                                                  1,279 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    115 mL
                                                                     60 mL
   Urine:
                                                                    115 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,164 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: ///12/
   Physical Examination
   GEN: NAD, sedated
   CV: tachycardic, reg rhythm
   RESP: CTA on anterior exam
   ABD: tense, no rebound/guarding
   EXT: mottling of feet bilaterally, edematous
   Labs / Radiology
   140 K/uL
   9.7 g/dL
   65 mg/dL
   4.0 mg/dL
   12 mEq/L
   6.0 mEq/L
   73 mg/dL
   114 mEq/L
   137 mEq/L
   32.7 %
   20.0 K/uL
        [image002.jpg]
                             [**2185-3-4**]  01:15 AM
                             [**2185-3-4**]  01:17 AM
                             [**2185-3-4**]  12:32 PM
                             [**2185-3-6**]  12:43 PM
                             [**2185-3-6**]  07:55 PM
                             [**2185-3-7**]  05:49 AM
                             [**2185-3-8**]  03:31 AM
                             [**2185-3-9**]  03:45 AM
                             [**2185-3-10**]  05:07 AM
   WBC
   18.9
   22.3
   17.9
   17.6
   15.8
   18.2
   25.6
   20.0
   Hct
   20.4
   36.2
   32.0
   30.6
   33.3
   31.4
   32.0
   32.7
   Plt
   292
   387
   188
   172
   185
   166
   140
   140
   Cr
   1.4
   1.3
   2.6
   2.3
   2.4
   2.8
   3.3
   4.0
   Glucose
   121
   118
   103
   68
   75
   171
   99
   86
   65
   Other labs: PT / PTT / INR:41.8/41.0/4.4, ALT / AST:80/142, Alk Phos /
   T Bili:700/6.5, Differential-Neuts:93.3 %, Band:0.0 %, Lymph:4.0 %,
   Mono:2.4 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:1.5 g/dL,
   LDH:397 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   80 year old Russian-speaking man with h/o multiple malignancies
   including recurrent colon cancer s/p hemicolectomy and recent
   metastatic adenocarcinoma with unknown primary and ampullary mass, HTN,
   & CKD who presents with septic shock, presumed secondary to
   cholangitis.
   .
   # septic shock
 Likely secondary to cholangitis as ampullary mass will
   predispose to recurrent infections.  Patient had a biliary stent placed
   in [**Month (only) **] and it is unclear if this stent was removed. [**Name (NI) 4137**] sono
   demonstrates CBD dilitation suggestive of obstruction (likely from the
   ampullary mass).  Alternatively, may have partially treated
   enterococcus endocarditis (finished ampicillin course [**3-2**]).  Also,
   could have PICC line infection, C. diff, UTI, aspiration PNA or other
   healthcare associated infections.  Lactate and anion gap is trending
   down with IVFs by [**3-4**]. [**3-6**] family meeting decided to pursue medical
   management with abx, IVF, transfusion, and pressors as needed.
   - Vanc/Zosyn D8, D1=[**3-3**] (Vanc level still therapeutic despite being
   d/ced
 now only on zosyn)
   - monitor UOP
   - per goals of care discussion and discussion on rounds, continue but
   do not escalate pressors
   .
   # anemia
 Patient has history of several recent bleeds felt to be
   secondary to the necrotic ampullary/duodenal mass.  Prior [**2-6**] labs
   consistent with iron deficiency anemia.  Last Hct 32.0.
   - trend Hct
   .
   # renal failure
  Baseline Cr 1.4-1.6.  Cr elevated to 2.3 -3.3 in
   last 72 hours, likely represents ATN [**1-4**] hypotension.  Poor UOP
   currently despite fluid challenge; now oliguric.
   - trend creatinine
   - renally dose all meds
   .
   # elevated INR
 2.9 from baseline of 1.3.  Unclear etiology.  Could
   represent deterioration of liver synthetic function from malignancy or
   hypotension.  DIC unlikely as Hct, Plt stable.
   - check fibrinogen
   - recheck INR
   .
   # malignancy
 Patient with multiple malignancies including bladder,
   colon (with recurrence), acoustic neuroma, and new metastatic adenoca
   with unknown primary with meds to the liver, large pericardial
   effusion, and necrotic ampullary mass.  Onc consulted on prior
   admission and felt that he was not a candidate for therapy.
   - no active management
   .
   # dementia
 At baseline, patient A&O x 1. Requires 24 hour assistance
   for all of his ADL's.  Now living at a rehab facility since prior
   admission.
   FEN: IVF boluses, replete electrolytes, NPO
   Prophylaxis: Pneumoboots, HSQ
   Access: 18G x 2 , right IJ, left PICC
   Code: DNR/DNI (confirmed with daughter)
   Communication: Patient & patient's family (daughter, [**Name (NI) 1677**] [**Name (NI) 12024**]
   [**Telephone/Fax (1) 11783**] cell [**Telephone/Fax (1) 12025**] home)
   Disposition: pending clinical improvement of hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-3-4**] 04:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: